US06403595B1
To a solution of 1-(4-cyanobenzyl)-2-piperazinone hydrochloride (3.78 g) and triethylamine (6.27 ml) in dichloromethane (50 ml) was added a solution of chloromethanesulfonyl chloride (2.68 g) in dichloromethane (10 ml) at 0° C., and the mixture was stirred at 0° C. for 1 hour. The reaction solution was diluted with dichloromethane, washed with sodium bicarbonate solution and saturated brine, dried (MgSO4) and concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:2) to give colorless crystals of 4-chloromethylsulfonyl-1-(4-cyanobenzyl)-2-piperazinone (4.01 g).

reactant | 1-(4-cyanobenzyl)-2-piperazinone hydrochloride | 3.78 g | Cl.C(#N)C1=CC=C(CN2C(CNCC2)=O)C=C1
reactant | triethylamine | 6.27 ml | C(C)N(CC)CC | C6H15N
reactant | chloromethanesulfonyl chloride | 2.68 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-chloromethylsulfonyl-1-(4-cyanobenzyl)-2-piperazinone | 4.01 g | ClCS(=O)(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)=O | C13H14ClN3O3S
